US05536701
5-Methoxy-3-[[2-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine (Compound No. 36, 0.75 g (0.0021 mole), 4 drops of 37% hydrochloric acid, and 10 mL of methanol were heated and held at 50° C. for 1 hour. The mixture was cooled, diluted with 30 ml water and neutralized with sodium bicarbonate. Filtration gave 5-methoxy-3-[[3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine (0.36 g, 65% yield) as a white solid.

reactant | 5-Methoxy-3-[[2-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | COC=1C=C(N=NC1)OC1=CC(N(N1)C1OCCCC1)C(F)(F)F | C14H17F3N4O3
reactant | methanol | 10 mL | CO | CH4O
catalyst | hydrochloric acid | 4 drops | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-methoxy-3-[[3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | 0.36 g, 65% yield | COC=1C=C(N=NC1)OC1=CC(=NN1)C(F)(F)F | C9H7F3N4O2
